US06610723B2
Cyclopropanecarboximidic Acid Ethyl Ester Hydrochloride
A steady stream of HCl gas was slowly passed through a solution of cyclopropancarbonitril (25 g, 373 mmol) in EtOH (17.2 ml). After 15 h the reaction mixture was cooled to 0° C. and diethylether was added dropwise. The precipitated title compound was filtered and obtained as a colourless crystalline material (32.9 g, 220 mmol, 59%). MS: m/e=112.2 (M−H).

reactant | HCl | Cl | ClH
reactant | cyclopropancarbonitril | 373 mmol, 25 g | C1(CC1)C#N | C4H5N
reactant | diethylether | C(C)OCC | C4H10O
solvent | EtOH | 17.2 ml | CCO | C2H6O
product | Cyclopropanecarboximidic Acid Ethyl Ester Hydrochloride | 220 mmol, 32.9 g, 59% | Cl.C(C)OC(=N)C1CC1 | InChI=1S/C6H11NO.ClH/c1-2-8-6(7)5-3-4-5;/h5,7H,2-4H2,1H3;1H
